US07834034B2
tert-Butyl{2-[({5-[(chloroacetyl)amino]-benzothien-2-yl}carbonyl)amino]-phenyl}carbamate.
To a solution of methyl 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylate (1.26 g, 4.50 mmol) in THF/MeOH (16/16 μL) was added 2N NaOH (9 mL). After 4 h, the solvent was reduced and the aqueous was washed with EtOAc. The aqueous was acidified and the solids were filtered and used without further purification. To a solution of 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylic acid (765 mg, 2.84 mmol) in DMF (3 mL) and CH2Cl2 (10 mL) was added EDCI (652 mg, 3.4 mmol), HOBt (460 mg, 3.40 mmol). The reaction mixture was stirred for 20 min and Boc-protected phenylene diamine (650 g, 3.12 mmol) was added. After 18 h, the solvent was removed and the residue was triturated with EtOAc and H2O. The solids were and filtered yielding the desired product as a solid, which was used without further purification. MS: cal'd 460 (MH+), exp 460 (MH+).

reactant | methyl 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylate | 4.50 mmol, 1.26 g | ClCC(=O)NC=1C=CC2=C(C=C(S2)C(=O)OC)C1 | C12H10ClNO3S
reactant | NaOH | 2N, 9 mL | [OH-].[Na+]
reactant | 5-[(chloroacetyl)amino]-1-benzothiophene-2-carboxylic acid | 2.84 mmol, 765 mg | ClCC(=O)NC=1C=CC2=C(C=C(S2)C(=O)O)C1 | C11H8ClNO3S
reactant | EDCI | 3.4 mmol, 652 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.40 mmol, 460 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | THF MeOH | 16 μL | C1CCOC1.CO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl{2-[({5-[(chloroacetyl)amino]-benzothien-2-yl}carbonyl)amino]-phenyl}carbamate | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1SC2=C(C1)C=C(C=C2)NC(CCl)=O)=O | C22H22ClN3O4S
